US06548694B2
To a solution of 2-bromo-4-fluorophenol (25.8 g) in DMF (100 ml) was added K2CO3 (20.5 g) and ethyl iodide (23.2 g). The mixture was stirred for 24 h at room temperature. Water (400 ml) was added and the mixture was extracted with hexane. The organic phase was washed with water, dried, filtered over a plug of silica gel and evaporated to yield 30.1 g of 2-bromo-1-ethoxy-4-fluoro-benzene as a colorless oil. MS: 220 ([M+H]+).

reactant | 2-bromo-4-fluorophenol | 25.8 g | BrC1=C(C=CC(=C1)F)O | C6H4BrFO
reactant | K2CO3 | 20.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl iodide | 23.2 g | C(C)I | C2H5I
reactant | Water | 400 ml | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 2-bromo-1-ethoxy-4-fluoro-benzene | 30.1 g | BrC1=C(C=CC(=C1)F)OCC | C8H8BrFO
